US05380834
Preparation of 1,6-anhydro-3,4-dideoxy-2-O-phenylcarbamoyl-β-D-threo-hex-3-enopyranose (Compound No. 23; phenyl carbamic acid ester of Compound No. 1)
0.56 g of phenyl isocyanate was added at room temperature to 30 ml of a dry toluene solution containing 0.3 g of 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose under an inert atmosphere of nitrogen gas. Further, 0.1 ml of triethylamine was added thereto, and the reaction mixture was refluxed under heating for two hours. Completion of the reaction was confirmed by thin layer chromatography, and then the solvent was immediately distilled off under reduced pressure to obtain a syrup crude product. This crude product was purified by silica gel chromatography (ethyl acetate: hexane=1:3) to obtain 0.5 g of the desired product (Compound No. 23). The NMR analytical data of this product are as follows.

reactant | phenyl isocyanate | 0.56 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 1,6-anhydro-3,4-dideoxy-β-D-threo-hex-3-enopyranose | 0.3 g | [C@H]12[C@@H](O)C=C[C@H](O1)CO2 | C6H8O3
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | 1,6-anhydro-3,4-dideoxy-2-O-phenylcarbamoyl-β-D-threo-hex-3-enopyranose | 0.5 g | C1(=CC=CC=C1)NC(=O)O[C@@H]1[C@H]2O[C@@H](C=C1)CO2 | C13H13NO4
